US04474754
5.50 Grams of Z-Pro-Gln-NHNHBoc was dissolved in 50 ml of methanol and was catalytically reduced by using palladium as the catalyst to obtain H-Pro-Gln-NHNHBoc.

reactant | Z-Pro-Gln-NHNHBoc | N1([C@H](C(=O)N[C@@H](CCC(N)=O)C(=O)NNC(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C23H33N5O7
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | H-Pro-Gln-NHNHBoc | N1[C@H](C(=O)N[C@@H](CCC(N)=O)C(=O)NNC(=O)OC(C)(C)C)CCC1 | C15H27N5O5
